US05059597
a) Ethyl N-(but-2-enyl)-N-(2,2-dimethoxyethyl)-carbamate
89 g (0.5 mol) of ethyl N-(2,2-dimethoxyethyl)carbamate are added dropwise to 17.5 g (0.58 mol) of NaH (80% strength in paraffin oil) in 500 ml of absolute toluene at 80° C. The mixture is then stirred for one hour and 80 g (0.59 mol) of 1-bromo-2-butene are subsequently added dropwise at 80° C. The mixture is stirred at 80° C. overnight and cooled, the salts are dissolved with water and the aqueous phase is separated off and extracted with toluene. The toluene solutions are dried over K2CO3 and concentrated and the residue is distilled.

reactant | ethyl N-(2,2-dimethoxyethyl)carbamate | 0.5 mol, 89 g | COC(CNC(OCC)=O)OC | C7H15NO4
reactant | NaH | 0.58 mol, 17.5 g | [H-].[Na+]
reactant | 1-bromo-2-butene | 0.59 mol, 80 g | BrCC=CC | C4H7Br
reactant | water | O | H2O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl N-(but-2-enyl)-N-(2,2-dimethoxyethyl)-carbamate | C(C=CC)N(C(OCC)=O)CC(OC)OC | C11H21NO4
